US05633218
Step A: Preparation of 5 -bromo-2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin
A solution of 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin (5.00 g, 24.0 mmol) in dry tetrahydrofuran (150 mL) is cooled to -78° C. under a nitrogen atmosphere. A solution of n-butyllithium (10.6 mL, 26.4 mmol of a 2.5M solution in hexanes) is added dropwise while maintaining the reaction temperature below -65° C. The reaction mixture is stirred at -78° C. for 30 min and then 1,2-dibromotetrafluoroethane (3.16 mL, 26.4 mmol) is added dropwise. After this addition is complete, the reaction mixture is allowed to come to room temperature. A small mount of water is slowly added to the mixture which is then poured into water. The aqueous mixture is saturated with sodium chloride and is extracted with diethyl ether. The combined organic extracts are dried (MgSO4), filtered, and concentrated under reduced pressure to afford the title compound of Step A.

reactant | 2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin | 24.0 mmol, 5.00 g | FC1(C(OC2=C(O1)C=CC=C2)(F)F)F | C8H4F4O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2-dibromotetrafluoroethane | 26.4 mmol, 3.16 mL | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 5 -bromo-2,2,3,3-tetrafluoro-2,3-dihydro-1,4-benzodioxin | BrC1=CC=CC=2OC(C(OC21)(F)F)(F)F | C8H3BrF4O2
